US05055579
b) 2-[4-(4,6-bis-trichloromethyl-s-triazin-2-yl) benzoylmethylene]-3-methylbenzothiazoline (compound 1)
2,3-Dimethylbenzothiazolium-p-toluenesulfonate (13.4 pbw) and 4-(4,6-bis-trichloromethyl-s-triazin2-yl)-benzoylchloride (22.7 pbw) are successively suspended or dissolved, respectively, in 150 pbw of toluene. The mixture is cooled to 15° C. and with the exclusion of moisture 13.1 pbw of triethylamine are added dropwise at this temperature. The mixture discolors towards dark brown and is stirred for 3 hours at room temperature. The precipitate formed is removed by filtration with suction and washed with cold toluene. The residue is digested in 200 pbw of methanol and stirred for about 60 minutes, again filtered and dried.

reactant | 2,3-Dimethylbenzothiazolium p-toluenesulfonate | CC=1SC2=C([N+]1C)C=CC=C2.CC=1C=CC(=CC1)S(=O)(=O)O
reactant | 4-(4,6-bis-trichloromethyl-s-triazin2-yl)-benzoylchloride | ClC(C1=NC(=NC(=N1)C(Cl)(Cl)Cl)C1=CC=C(C(=O)Cl)C=C1)(Cl)Cl | C12H4Cl7N3O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-[4-(4,6-bis-trichloromethyl-s-triazin-2-yl) benzoylmethylene]-3-methylbenzothiazoline | ClC(C1=NC(=NC(=N1)C(Cl)(Cl)Cl)C1=CC=C(C(=O)C=C2SC3=C(N2C)C=CC=C3)C=C1)(Cl)Cl | C21H12Cl6N4OS
